US03998842
a. 3-(m-Chlorophenyl)-3-hydroxy-2-oxo-1-indolinebutyronitrile
3-(m-Chlorophenyl)-3-hydroxy-2-indolinone (31.2g) in dry dimethylformamide (120 ml.) was added dropwise with stirring under nitrogen to a suspension of sodium hydride (5.2g of a 60% dispersion in oil) in dry dimethylformamide (120ml.) while keeping the temperature at 10°C. The reaction was then left stirring at room temperature for 1 hour. 4-Bromobutyronitrile (18.6g.) in dry toluene (120 ml.) was added dropwise and the mixture stirred for 36 hours. The reaction mixture was poured into water and extracted with toluene. The organic extracts were dried over magnesium sulphate and evaporated to an oil which afforded 21.3 g. colourless crystals, m.p. 124°-126°C, from ethanol.

reactant | 3-(m-Chlorophenyl)-3-hydroxy-2-indolinone | 31.2g | ClC=1C=C(C=CC1)C1(C(NC2=CC=CC=C12)=O)O | C14H10ClNO2
reactant | sodium hydride | [H-].[Na+]
reactant | 4-Bromobutyronitrile | 18.6g | BrCCCC#N | C4H6BrN
reactant | water | O | H2O
solvent | dimethylformamide | 120 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 120ml | CN(C=O)C | C3H7NO
solvent | toluene | 120 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | C(C)O | C2H6O
product | 3-(m-Chlorophenyl)-3-hydroxy-2-oxo-1-indolinebutyronitrile | ClC=1C=C(C=CC1)C1(C(N(C2=CC=CC=C12)CCCC#N)=O)O | C18H15ClN2O2
